US09340527B2
1-((2-(trans-4-tert-Butylcyclohexyloxy)quinolin-6-yl)methyl)piperidine-4-carboxylic acid
To the solution of 2-(4-tert-butyl-cyclohexyloxy)-quinoline-6-carbaldehyde (350 mg, 1.1 mmol) and piperidine-4-carboxylic acid (145 mg, 1.12 mmol) in ethanol (8 mL, 100 mmol) was heated to reflux for 2 h. The yellow solution was cooled to rt and sodium cyanoborohydride (84.8 mg, 1.35 mmol) was added and was heated to reflux for 1 h. After cooled down to rt, citric acid was added and concentrated down. The solid was suspended in water and filtrate, and the collected solid was washed thoroughly with water. HPLC purification of the solid gives the product. 77 mg, yield: 16%. ESI-MS (M+1)+: 425.00.

reactant | 2-(4-tert-butyl-cyclohexyloxy)-quinoline-6-carbaldehyde | 1.1 mmol, 350 mg | C(C)(C)(C)C1CCC(CC1)OC1=NC2=CC=C(C=C2C=C1)C=O | C20H25NO2
reactant | piperidine-4-carboxylic acid | 1.12 mmol, 145 mg | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | ethanol | 100 mmol, 8 mL | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 1.35 mmol, 84.8 mg | C(#N)[BH3-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 1-((2-(trans-4-tert-Butylcyclohexyloxy)quinolin-6-yl)methyl)piperidine-4-carboxylic acid | yield: 16% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC1=NC2=CC=C(C=C2C=C1)CN1CCC(CC1)C(=O)O | C26H36N2O3
